US08293768B2
Synthesis of ethyl 4-methyl-2-(2-oxo-3-(3-phenylpropyl)imidazolidin-1-yl)thiazole-5-carboxylate
Following the procedure as described in Example 10, making variations as required to replace cyclopropylmethyl bromide with 1-bromo-3-phenylpropane to react with ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate, the title compound was obtained in 61% yield: 1H NMR (300 MHz, DMSO-d6) δ 7.27-7.13 (m, 5H), 4.27 (q, J=7.2 Hz, 2H), 4.02-3.96 (m, 2H), 3.52-3.46 (m, 2H), 3.37 (t, J=7.2 Hz, 2H), 2.63 (t, J=7.5 Hz, 2H), 2.59 (s, 3H), 1.95-1.88 (m, 2H), 1.23 (t, J=7.2 Hz, 3H); MS (ES+) m/z 374.2 (M+1).

reactant | cyclopropylmethyl bromide | C1(CC1)CBr | C4H7Br
reactant | 1-bromo-3-phenylpropane | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(NCC1)=O | C10H13N3O3S
product | ethyl 4-methyl-2-(2-oxo-3-(3-phenylpropyl)imidazolidin-1-yl)thiazole-5-carboxylate | 61% yield | CC=1N=C(SC1C(=O)OCC)N1C(N(CC1)CCCC1=CC=CC=C1)=O | C19H23N3O3S
